US07544703B2
2-Acetylamino-4-methanesulfonyloxymethylpyridine (Reference Compound No. 13-1)
A solution of triethylamine (1.7 mL, 12 mmol) and methanesulfonyl chloride (0.70 mL, 9.0 mmol) in anhydrous tetrahydrofuran (3.0 mL) was added to a solution of (2-acetylaminopyridin-4-yl)methanol (Reference compound No. 12-1, 1.0 g, 6.0 mmol) in anhydrous tetrahydrofuran (9.0 mL) under ice-cooling, and the mixture was stirred for 20 minutes. Water (30 mL) was added to the reaction mixture, the whole was extracted with ethyl acetate (40 mL) three times, and then the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the resulting solid was filtered off with hexane. The solid was dried under reduced pressure at 40° C. to give 1.3 g of the title reference compound as a pale yellow solid. (Yield 87%)

reactant | triethylamine | 12 mmol, 1.7 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 9.0 mmol, 0.70 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | (2-acetylaminopyridin-4-yl)methanol | C(C)(=O)NC1=NC=CC(=C1)CO | C8H10N2O2
reactant | Water | 30 mL | O | H2O
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9.0 mL | O1CCCC1 | C4H8O
product | 2-Acetylamino-4-methanesulfonyloxymethylpyridine | Yield 87% | C(C)(=O)NC1=NC=CC(=C1)COS(=O)(=O)C | C9H12N2O4S
